US06720336B2
To a solution of 1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-ol (21.7 g, 73.1 mmol) in (CH2)2Cl2 (200 mL) was added phenol (20.7 g, 220 mmol) followed by portionwise addition (highly exothermic) of AlCl3 (29.3 g, 200 mmol). The reaction mixture was heated to reflux for 10 hours. The mixture was cooled to room temperature and was slowly poured into a mixture of crushed ice (50 mL) and 30% aq. NH4OH (120 mL). The mixture was stirred vigorously for 20 minutes and was then filtered through celite. The celite cake was washed with CH2Cl2 (200 mL). The organic layer was separated and the aqueous layer was washed with CH2Cl2 (3×100 mL). The combined organic layers were dried (MgSO4) and concentrated. The crude residue was purified by flash chromatography with hexanes/EtOAc (1:1) to afford 20.1 g (73% yield) of 4-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-phenol. 1HNMR (400 MHz, CD3OD) δ 7.28-7.20 (comp, 5H), 7.14 (t, 1H), 7.07 (d, 2H), 6.83 (d, 2H), 6.76 (s, 1H), 6.70-6.60 (comp, 3H), 3.69 (s, 3H), 3.39 (s, 2H), 2.50-2.40 (comp, 4H), 2.39-2.29 (comp, 4H); MS (M+1) 374.2.

reactant | 1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-ol | 73.1 mmol, 21.7 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=CC=C1)OC | C19H23NO2
reactant | phenol | 220 mmol, 20.7 g | C1(=CC=CC=C1)O | C6H6O
reactant | AlCl3 | 200 mmol, 29.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | NH4OH | 120 mL | [NH4+].[OH-]
product | 4-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-phenol | 20.1 g, 73% yield | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)O | C25H27NO2
